US04904815
5.0 Parts of 2-methyl-4-(5-methoxycarbonyl-2-methyl-pent-2-yl)-phenol, 2.4 parts of α-methylstyrene, and 0.5 parts of 70% perchloric acid in 25 parts of methylene chloride were reacted and worked up as described in Example 61. Distillation gave methyl 5-(3-cumyl-4-hydroxy-5-methyl-phenyl)5-methyl-hexanoate, b0.7 210°-4° C. as an oil with the following percentage composition by weight.

reactant | 2-methyl-4-(5-methoxycarbonyl-2-methyl-pent-2-yl)-phenol | CC1=C(C=CC(=C1)C(C)(CCCC(=O)OC)C)O | C15H22O3
reactant | α-methylstyrene | CC(=C)C1=CC=CC=C1 | C9H10
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 5-(3-cumyl-4-hydroxy-5-methyl-phenyl)5-methyl-hexanoate | C(C)(C)(C1=CC=CC=C1)C=1C=C(C=C(C1O)C)C(CCCC(=O)OC)(C)C | C24H32O3
